US05147876
To a solution of 17.0 g (0.11 mole) of 2,4-dichloropyrimidine in 150 ml of dichloromethane was added methylamine (0.25 mole, 20 ml of 40 % methanol solution) at such a rate that the temperature of the solution was maintained at 5 ° C. After the addition, the solution was stirred at room temperature for 12 hours. The reaction mixture was concentrated under reduced pressure, and extracted with dichloromethane. The dichloromethane layer was dried over an anhydrous sodium sulfate, and concentrated under reduced pressure to give 14.0 g (purity 80 %) of 2-chloro-4-methylaminopyrimidine.

reactant | 2,4-dichloropyrimidine | 0.11 mole, 17.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | methylamine | 0.25 mole, 20 ml | CN | CH5N
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 2-chloro-4-methylaminopyrimidine | 14.0 g | ClC1=NC=CC(=N1)NC | C5H6ClN3
